US07273877B2
4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid and CDI were dissolved in anhydrous THF/DMF (4:1) and treated with 1-amino-2-propanol as for example 34. After workup, the residue was triturated with hexane then dried, affording 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxypropyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (36%) as a white solid; m.p. (EtOAc/Hexane) 161-166° C. (glue-liquid). 1H NMR [400 MHz, (CD3)2CO] δ 10.13 (br s, 1H), 8.31 (t, J=1.7 Hz, 1H), 7.73 (br s, 1H), 7.66-7.58 (m, 2H), 7.37-7.31 (m, 1H), 5.75 (dd, J=5.2, 0.9 Hz, 1H), 3.96-3.88 (m, 1H), 3.46-3.39 (m, 1H), 3.42 (s, 3H), 3.25-3.17 (m, 1H), 1.15 (d, J=6.2 Hz, 3H). HRMS (FAB+) calcd for C16H18FIN3O3 446.0377 (M+), found 446.0371. HPLC 96.8% (254 nm).

reactant | 4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)I | C13H10FIN2O3
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
solvent | THF DMF | C1CCOC1.CN(C)C=O
product | 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxypropyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 36% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NCC(C)O)C=CC(=C1)I | C16H17FIN3O3
